US09227978B2
tert-Butyl 4-((4,5-dichloro-2-methoxybenzyl)carbamoyl)piperidine-1-carboxylate
The mixture of (4,5-dichloro-2-methoxyphenyl)methanamine (0.8 g, 3.90 mmol), 1-(tert-butoxycarbonyl)piperidine-4-carboxylic acid (0.88 g, 3.84 mmol), BOP (2 g, 1.16 mmol) and DIEA (1.6 g, 2.91 mmol) in DMF (20 mL) was stirred at room temperature for 1 h. The mixture was poured into water and extracted with ethyl acetate. The organic layer was washed with water and brine, dried over Na2SO4 and concentrated in vacuo. The residue was purified by flash column chromatography on silica gel (dichloromethane/methanol=100:1) to afford the desired product (0.987 g, 62% yield). ESI-MS m/z: 415.4 [M−H]−.

reactant | (4,5-dichloro-2-methoxyphenyl)methanamine | 3.90 mmol, 0.8 g | ClC1=CC(=C(C=C1Cl)CN)OC | C8H9Cl2NO
reactant | 1-(tert-butoxycarbonyl)piperidine-4-carboxylic acid | 3.84 mmol, 0.88 g | C(C)(C)(C)OC(=O)N1CCC(CC1)C(=O)O | C11H19NO4
reactant | BOP | 1.16 mmol, 2 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | DIEA | 2.91 mmol, 1.6 g | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | tert-Butyl 4-((4,5-dichloro-2-methoxybenzyl)carbamoyl)piperidine-1-carboxylate | 0.987 g, 62% yield | ClC1=CC(=C(CNC(=O)C2CCN(CC2)C(=O)OC(C)(C)C)C=C1Cl)OC | C19H26Cl2N2O4
